US04076712
a. 2-Methylpyrazolo[1,5-a]pyrido[2,3-d]pyrimidin-9(4H)-one
157 g. of 2-chloropyridine-3-carboxylic acid and 194 g. of 5-amino-3-methylpyrazole are heated together in 500 ml. of diphenyl ether for 10 minutes at 215°. After this time, the mixture is allowed to stand at room temperature for 2 hours and is then filtered. The crystalline 2-methylpyrazolo[1,5-a]pyrido[2,3-d]pyrimidin- 9(4H)-one is washed with methanol and recrystallized from dimethylformamide, yield: 120 g. (64%); m.p. >300°.

reactant | 2-chloropyridine-3-carboxylic acid | ClC1=NC=CC=C1C(=O)O | C6H4ClNO2
reactant | 5-amino-3-methylpyrazole | NC1=CC(=NN1)C | C4H7N3
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 2-Methylpyrazolo[1,5-a]pyrido[2,3-d]pyrimidin-9(4H)-one | CC1=NN2C(NC3=C(C2=O)C=CC=N3)=C1 | C10H8N4O
